Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Sore throat, hoarse voice
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ history of daily alcohol use, HTN who presents with two 
weeks of sore throat and hoarse voice. 

He has been experiencing a change in his voice ("lost his 
voice") for approximately two weeks. He acutely presented after 
having an episode of choking when laying flat. 

In terms of his bowel movements, he does have a history of 
hemorrhoids but in past has only had blood on toilet paper. Had 
two episodes of BRBPR with significant amount (~200cc) of blood 
in toilet bowel, first time this has happened. Has been having 
diarrhea x ___ weeks. 

In the ED, initial vitals were:  
98.9 116 150/90 18 96% RA 
- Exam notable for: Lungs CTAB, heart RRR, no throat pain, white 
coating on the tongue. 
- Labs notable for: Stable Hb/Hct at 15.4/43.5. K initially low 
and then repleted. 
- Imaging was notable for: none
- Consults: ENT consulted, thought bacterial vs fungal 
pharyngitis, recommended fluconazole and levofloxacin x 14 days 
with PPI. GI curbsided, no plans to scope at this point.
- Events: patient had two episodes of BRBPR, stable Hb/Hct, 
tachycardic to 160s with ambulation. 
- Patient was given:  IV thiamine, LR, potassium/magnesium 
repletion, diazepam for CIWA, fluconazole 200mg per ENT recs, 
levofloxacin 750mg. 

Upon arrival to the floor, patient reports that his two main 
complaints are:
- Change in voice, hoarse voice that occurred abruptly ~13 days 
ago associated with minor soreness of throat. 
- Bloody bowel movements. Has a history of hemorrhoids but in 
past only had blood on toilet paper; significantly more blood on 
this occasion.
- He also notes that for weeks he has been having night sweats, 
where he wakes up with varying degrees of sweat soaking in his 
shirt in the AM. 

Otherwise has intermittent chills, denies fevers, nausea, 
vomiting, shortness of breath, chest pain.  

 
Past Medical History:
- Hypertension
- Alcohol use disorder
 
Social History:
___
Family History:
Mother has DM, father has HTN. 

 
Physical Exam:
ADMISSION EXAM:
Vitals:  98.5 156 / 84 92 18 98 RA  
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMs slightly dry. Large amount of white 
plaque covering the tongue and in the oropharynx. 
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE EXAM:
98.2 PO 148 / 82 83 20 98 ra  
 General: alert, oriented, no acute distress  
 HEENT: sclera anicteric, MMs slightly dry. Large amount of 
white plaque covering the tongue and in the oropharynx.  
 Neck: supple, no LAD  
 Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
 CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, no rebound tenderness 
or guarding, no organomegaly  
 GU: no foley  
 Ext: warm, well perfused, no edema  

 
Pertinent Results:
================
ADMISSION LABS
================

___ 09:27PM BLOOD WBC-8.8 RBC-4.58* Hgb-15.5 Hct-44.3 
MCV-97 MCH-33.8* MCHC-35.0 RDW-13.0 RDWSD-46.6* Plt ___
___ 09:27PM BLOOD Neuts-72.8* Lymphs-14.9* Monos-10.6 
Eos-0.5* Baso-0.7 Im ___ AbsNeut-6.39* AbsLymp-1.31 
AbsMono-0.93* AbsEos-0.04 AbsBaso-0.06
___ 09:27PM BLOOD Plt ___
___ 07:55AM BLOOD ___ PTT-27.4 ___
___ 09:27PM BLOOD Glucose-126* UreaN-10 Creat-0.7 Na-138 
K-3.0* Cl-96 HCO3-24 AnGap-21*
___ 03:20PM BLOOD ALT-88* AST-155* AlkPhos-115 TotBili-1.7* 
DirBili-PND
___ 09:27PM BLOOD Mg-1.8

=================
DISCHARGE LABS
=================

___ 06:50AM BLOOD WBC-6.8 RBC-4.47* Hgb-15.5 Hct-43.7 
MCV-98 MCH-34.7* MCHC-35.5 RDW-12.5 RDWSD-45.3 Plt ___
___ 07:55AM BLOOD Neuts-68.1 ___ Monos-10.2 
Eos-0.9* Baso-0.6 NRBC-0.2* Im ___ AbsNeut-5.49 
AbsLymp-1.55 AbsMono-0.82* AbsEos-0.07 AbsBaso-0.05
___ 06:50AM BLOOD Plt ___
___ 07:55AM BLOOD ___ PTT-27.4 ___
___ 06:50AM BLOOD Glucose-87 UreaN-10 Creat-0.6 Na-136 
K-3.8 Cl-96 HCO3-25 AnGap-19
___ 06:50AM BLOOD ALT-73* AST-87* AlkPhos-110 TotBili-1.4

==================
IMAGING
==================
RUQ Ultrasound ___: Echogenic liver consistent with 
steatosis. Other forms of liver disease including 
steatohepatitis, hepatic fibrosis, or cirrhosis cannot be 
excluded on the basis of this examination. 

 
Brief Hospital Course:
SUMMARY: ___ history of daily alcohol use, HTN who presents with 
pharyngitis and BRBPR. 

ACUTE ISSUES:
# Pharyngitis: Patient presents with white plaque on tongue and 
in mouth consistent with pharyngitis, fungal vs bacterial. 
Underlying malignancy cannot be excluded and patient does have a 
significant smoking history. Likely source of patient's symptoms 
including sore throat and hoarse voice. Will assess for HIV 
given findings of pharyngitis, night sweats, and diarrhea. ENT 
was consulted and recommended levofloxacin 750mg, fluconazole 
200mg daily x 14 days (d1 = ___. HIV testing was negative. 
Patient will f/u with ENT as outpatient. 

# BRBPR: History of hemorrhoids, has not bled for months. In ED 
had two episodes of BRBPR (200cc in toilet bowl) with 
tachycardia on ambulation to the 160s. Patient was admitted and 
subsequently hemodynamically stable with stable Hb/Hct. He was 
discharged with plan to f/u as outpatient. 

# Transaminitis: Patient was found to have elevated ALT/AST with 
elevated Tbili in the setting of extensive alcohol use. RUQ 
ultrasound showed steatisus. Hepatitis serologies were sent and 
showed negative HepC and HBs-Ab positive with HBs-Ag negative.

# Alcohol use: Daily EtOH use with ___ drinks per day. 
Connected in the ED with social work who provided with 
outpatient resources. Patient was kept on CIWA scale with 
diazepam PRN

CHRONIC ISSUES:
# HTN: Continue home amlodipine

TRANSITIONAL ISSUES:
- Will complete 14-day course of fluconazole 200mg daily and 
levofloxacin 750mg daily (last day ___
- F/u with ENT in clinic for scope to assess for malignancy
- Consider referral to GI for scope to assess cause of BRBPR
- HIV and hepatitis serologies pending, consider referral to 
hepatology
- Patient counseled on importance of alcohol cessation
# Code status: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. TraZODone 50 mg PO QHS 
3. Tretinoin 0.025% Cream 1 Appl TP QHS 

 
Discharge Medications:
1.  Fluconazole 200 mg PO Q24H Duration: 13 Days 
RX *fluconazole 200 mg 1 tablet(s) by mouth daily Disp #*11 
Tablet Refills:*0 
2.  Levofloxacin 750 mg PO Q24H Duration: 13 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*11 
Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  TraZODone 50 mg PO QHS  
5.  Tretinoin 0.025% Cream 1 Appl TP QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Pharyngitis
Gastrointestinal bleed
Alcohol use disorder

SECONDARY DIAGNOSIS:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ due to a change in your voice. You 
were found to have an infection in your throat with either 
bacteria or fungus. You were seen by our ENT doctors and started 
on both antifungal and antibiotic medications. 

After you leave the hospital:
- Please take all your doses of the new medications as 
prescribed
- It is very important that you follow up with your PCP and with 
the ENT doctors in ___. Appointments are listed below. 
- You will need further testing for your liver, throat, and for 
your GI tract. Please work with your outpatient doctors to get 
these tests

We wish you all the best!
- Your ___ care team
 
Followup Instructions:
___